US07407968B2
2-[[[4-[[Bis(2,2,2-trifluoroethyl)amino]carbonyl]-2-nitrophenyl]amino]methyl]-(2S)-1-pyrrolidinecarboxylic acid-1,1-dimethylethyl ester
Following the general procedure for Intermediate 2 using 4-fluoro-3-nitro-N,N-bis(2,2,2-trifluoroethyl)benzamide (130 mg, 0.373 mmol) and (S)-2-aminomethyl-1-Boc-pyrrolidine (82 mg, 0.410 mmol) in 3 mL of EtOH containing Et3N (0.080 mL, 0.559 mmol). The product was purified by flash chromatography on silica gel using 3:1/hexanes:EtOAc as eluent. Yield: 165 mg (84%); 1H NMR (CDCl3) 1.47 (brs, 9H), 1.83 (m, 1H), 1.90 (m, 2H), 2.03 (m, 1H), 3.31 (m, 1H), 3.37 (m, 2H), 3.62 (m, 1H), 4.09 (m, 2H), 4.24 (m, 6H), 7.26 (m, 1H), 7.50 (m, 1H), 8.27 (s, 1H), 8.55 (brs, 1H); MS (ESI) 529.38 (MH+).

reactant | 4-fluoro-3-nitro-N,N-bis(2,2,2-trifluoroethyl)benzamide | 0.373 mmol, 130 mg | FC1=C(C=C(C(=O)N(CC(F)(F)F)CC(F)(F)F)C=C1)[N+](=O)[O-] | C11H7F7N2O3
reactant | (S)-2-aminomethyl-1-Boc-pyrrolidine | 0.410 mmol, 82 mg | NC[C@H]1N(CCC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | Et3N | 0.559 mmol, 0.080 mL | CCN(CC)CC | C6H15N
solvent | EtOH | 3 mL | CCO | C2H6O
product | 2-[[[4-[[Bis(2,2,2-trifluoroethyl)amino]carbonyl]-2-nitrophenyl]amino]methyl]-(2S)-1-pyrrolidinecarboxylic acid-1,1-dimethylethyl ester | CC(C)(C)OC(=O)N1[C@@H](CCC1)CNC1=C(C=C(C=C1)C(=O)N(CC(F)(F)F)CC(F)(F)F)[N+](=O)[O-] | C21H26F6N4O5
